US04956374
Each of the specific compounds referred to in Table I was soluble in benzene, chloroform, dimethyl sulfoxide, ethyl acetate, methanol and ethanol, but insoluble in n-hexane and water. They gave positive responses to Dragendorff and Rydon-Smith reagents, but negative responses to Erhlich, Sakaguchi and ninhydrin reagents. UV absorption maxima were observed at about 219, 242 and 317 nm in methanol and acidic methanol which shifted to about 221, 252, 293 and 342 nm in alkaline methanolic solution. The IR spectra of these compounds exhibited in common the presence of amide at 1660-1680 cm-1. The IR spectra for BU-3557B1 and BU-3557C4 showed an additional carbonyl absorption at 1705 cm-1 which is attributed to the ketone carbonyl group in the alkyl chain of R.

reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | methanol | CO | CH4O
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | n-hexane | CCCCCC | C6H14
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
